US05272252
Dissolve 2-propyl-3-t-butyl-5-isopropylbenzoquinone (10mmol), 1,1,3,3-tetramethyldisiloxane (1.79mL, 10mmol) and iodine (0.05g) in methylene chloride (30mL). Stir at reflux for 30 minutes and extract with 1N sodium hydroxide (30mL). Acidify the aqueous phase with concentrated hydrochloric acid and extract into ethyl acetate (4×10mL), dry (NazSO4) and evaporate the solvent in vacuo to give 2-propyl-3-t-butyl-4-hydroxy-5-isopropylphenol.

reactant | 2-propyl-3-t-butyl-5-isopropylbenzoquinone | 10mmol | C(CC)C=1C(C=C(C(C1C(C)(C)C)=O)C(C)C)=O | C16H24O2
reactant | 1,1,3,3-tetramethyldisiloxane | 10mmol, 1.79mL | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | iodine | 0.05g | II | I2
solvent | methylene chloride | 30mL | C(Cl)Cl | CH2Cl2
product | 2-propyl-3-t-butyl-4-hydroxy-5-isopropylphenol | C(CC)C1=C(C=C(C(=C1C(C)(C)C)O)C(C)C)O | C16H26O2
